US08748608B2
4-(2,3-Dichlorophenyl)-1-(4-(4-(pyridin-2-yl)benzamido)-trans-but-2-enyl)-piperazine 1-oxide (13).
A solution of PG01037, see U.S. 2006/0106030 (288 mg, 0.60 mmol) in 10 mL dichloromethane was treated at 0° C. with meta-chloroperbenzoic acid (0.16 g, 77%, 0.72 mmol). After stirring for 16 h at room temperature, the reaction mixture was successively washed with saturated sodium bicarbonate solution, H2O and brine and dried with sodium sulphate. The volatiles were removed in vacuo and the residue was purified by preparative thin layer chromatography. Yield: 93 mg (32%). Mp. (hydrochloride): foam. 1H NMR (CD3OD): δ 3.23-3.29 (m, 4H), 3.50-3.61 (m, 4H), 3.99 (d, J 6.5, 1H), 4.13 (d, J 4.6, 1H), 6.04-6.18 (m, 2H), 7.18 (dd, J 7.8, 3.9, 1H), 7.24-7.28 (m, 2H), 7.40 (m, 1H), 7.91-7.93 (m, 2H), 7.99 (d, J 8.4, 2H), 8.06 (d, J 8.7, 2H), 8.64 (dt, J 4.8, 1.2, 1H). 13C NMR (CDCl3): δ 41.0, 45.5, 63.5, 72.0, 119.3, 120.0, 121.6, 123.1, 125.4, 127.0, 127.3, 127.7, 128.0, 133.8, 134.6, 137.8, 137.9, 142.2, 149.3, 150.1, 156.4, 168.3. Anal. (C26H26Cl2N4O2:2HCl.0.5H2O) C, H, N.

reactant | PG01037 | C=1C=CN=C(C1)C=2C=CC(=CC2)C(=O)NC/C=C/CN3CCN(CC3)C4=CC=CC(=C4Cl)Cl | C26H26Cl2N4O
reactant | meta-chloroperbenzoic acid | 0.72 mmol, 0.16 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 4-(2,3-Dichlorophenyl)-1-(4-(4-(pyridin-2-yl)benzamido)-trans-but-2-enyl)-piperazine 1-oxide | ClC1=C(C=CC=C1Cl)N1CC[N+](CC1)(C\C=C\CNC(C1=CC=C(C=C1)C1=NC=CC=C1)=O)[O-] | C26H26Cl2N4O2
